US04448962
A mixture of 1-ethyl-6-chloro-7-(1-piperazinyl)-4-oxo-1,4-dihydoquinoline-3-carboxylic acid 1.7 g (0.01 mole), ethylchloroacetate 1.2 g (0.01 mole), triethylamine 1.0 g (0.01 mole) and DMF 10 ml was heated at 90°-100° C. for 3 hours under stirring. The reaction mixture was cooled, evaporated under vacuum, the residue was dissolved in dichloromethane, washed with water, dried with anhydrous Na2SO4, and the solvent was distilled off. The residue was recrystallized from a mixed solvent of DMF and ethanol to obtain 2.1 g (quantitative) of 1-ethyl-6-chloro-7-(4-ethoxycarbonylmethyl-1-piperazinyl)-4-oxo-1,4-dihydroquinoline-3-carboxylic acid. Colorless powders.

reactant | 1-ethyl-6-chloro-7-(1-piperazinyl)-4-oxo-1,4-dihydoquinoline-3-carboxylic acid | 0.01 mole, 1.7 g | C(C)N1C=C(C(C2=CC(=C(C=C12)N1CCNCC1)Cl)=O)C(=O)O | C16H18ClN3O3
reactant | ethylchloroacetate | 0.01 mole, 1.2 g | C(C)OC(CCl)=O | C4H7ClO2
reactant | triethylamine | 0.01 mole, 1.0 g | C(C)N(CC)CC | C6H15N
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 1-ethyl-6-chloro-7-(4-ethoxycarbonylmethyl-1-piperazinyl)-4-oxo-1,4-dihydroquinoline-3-carboxylic acid | 2.1 g | C(C)N1C=C(C(C2=CC(=C(C=C12)N1CCN(CC1)CC(=O)OCC)Cl)=O)C(=O)O | C20H24ClN3O5
